US09371318B2
The 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)-methyl)furan-2-carboxylic acid prepared as described in Example 6 Step 1 was further purified by reverse phase column chromatography eluting with gradient of Eluent A: Water/ACN 95/5+0.1% HCOOH and Eluent B: ACN/water 95/5+0.1% HCOOH. 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)methyl)furan-2-carboxylic acid formate (1:1) (8.36 g, 16.12 mmol) was dispersed in Dioxane (50 mL) and then 4M HCl in dioxane (16.12 mL, 64.5 mmol) was added at 0° C. and the mixture stirred at it for 10 minutes until complete dissolution. The above mentioned solution was dropped in a 500 mL of Et2O under vigorous stirring to give a white precipitate that was collected by filtration. After drying under vacuum 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)methyl)furan-2-carboxylic acid hydrochloride (8.2 g, 15.98 mmol, 99% yield) was isolate as a white solid.

reactant | 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)-methyl)furan-2-carboxylic acid | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(O2)C(=O)O)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C27H28N2O6
reactant | 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)methyl)furan-2-carboxylic acid formate | 16.12 mmol, 8.36 g | C(=O)O.C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(O2)C(=O)O)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2
reactant | HCl | 4M | Cl | ClH
reactant | Et2O | 500 mL | CCOCC | C4H10O
solvent | Dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 64.5 mmol, 16.12 mL | O1CCOCC1 | C4H8O2
product | 5-((3-((S)-phenyl(((R)-quinuclidin-3-yloxy)carbonylamino)methyl)phenoxy)methyl)furan-2-carboxylic acid hydrochloride | 15.98 mmol, 8.2 g, 99% yield | Cl.C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(O2)C(=O)O)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | InChI=1S/C27H28N2O6.ClH/c30-26(31)23-10-9-22(34-23)17-33-21-8-4-7-20(15-21)25(19-5-2-1-3-6-19)28-27(32)35-24-16-29-13-11-18(24)12-14-29;/h1-10,15,18,24-25H,11-14,16-17H2,(H,28,32)(H,30,31);1H/t24-,25-;/m0./s1
